US03937702
To a cooled solution of 2-hydroxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate (8.0 parts) in dry pyridine (42 parts) was added benzoyl chloride (4.75 parts) at such a rate that the temperature did not exceed 10°C. After 1 hour the mixture was poured into a slight excess of dilute hydrochloric acid. The product was extracted with ether and the ethereal solution washed, dried with sodium sulphate and evaporated to give an oil which solidified on scratching. The solid was recrystallised from a mixture of benzene and light petroleum to give 2-benzoyloxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate (5.1 parts), melting point 102°-104°C.

reactant | 2-hydroxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H14O5S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-benzoyloxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)OC(C2=CC=CC=C2)=O)(C)C)C1 | C18H18O6S
